US07326732B2
(i) N-(3-Cyanomethoxy-phenyl)-acetamide
To a solution of N-(3-hydroxy-phenyl)-acetamide (5 g, 33.1 mmol) in acetone (50 ml) were added K2CO3 (5.49 g, 39.8 mmol) and bromo-acetonitrile (4.37 g, 36.4 mmol). The reaction mixture was heated to 100° C. for 3 h, filtered and the acetone layer evaporated in vacuo. This residue was dissolved in EtOAc (100 ml) and washed with 1M NaOH (10 ml×2). The organic layer was dried (Na2SO4), filtered and the solvent removed in vacuo. The crude residue was purified by column chromatography eluting with 80% EtOAc in heptane to give the title compound.

reactant | N-(3-hydroxy-phenyl)-acetamide | 33.1 mmol, 5 g | OC=1C=C(C=CC1)NC(C)=O | C8H9NO2
reactant | K2CO3 | 39.8 mmol, 5.49 g | C(=O)([O-])[O-].[K+].[K+]
reactant | bromo-acetonitrile | 36.4 mmol, 4.37 g | BrCC#N | C2H2BrN
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | N-(3-Cyanomethoxy-phenyl)-acetamide | C(#N)COC=1C=C(C=CC1)NC(C)=O | C10H10N2O2
